US07384970B2
The title compound was prepared following the procedures of Example 22, except that in step D it uses 4-cyclohexyl-(2S)-[(1H-indole-2-carbonyl)-amino]-butyric acid instead of Methyl-(2S)-(3-methyl-benzoylamino)-pentanoic acid. The final compound is isolated as a mixture of diastereomers in a 1.5:1 ratio. HPLC-MS calcd. for C29H38N4O3 (M+H+) 491.3, found 491.5. 1H NMR (CDCl3, 400 MHz) δ 0.55-1.38 (m, 16H), 1.53-1.71 (m, 2H), 2.89 (m, 2H), 3.49 (s, 3H), 4.03 (m, 1H), 4.41 (m, 1H), 6.35-7.17 (m, 9H), 7.40 (1H, m), 9.48 (s, 1H) 4-Cyclohexyl-(2S)-[(1H-indole-2-carbonyl)-amino]-butyric acid is made by the following procedure: (+)-Ethyl-(S)-2-amino-4-cyclohexylbutyrate hydrochloride (1.643 g, 6.577 mmol, 1.0 equiv.), 2-indolecarboxylic acid (1.166 g, 7.235 mmol, 1.1 equiv.), HATU (2.750 g, 7.232 mmol, 1.1 equiv.), and CH2Cl2 (80 mL) were combined in a 100 mL r.b. flask with a magnetic stir-bar. The resulting cloudy white solution reaction was allowed to stir at room temperature for 20 minutes, upon which DIPEA (5.8 mL, 33.29 mmol, 4.6 equiv.) was added via syringe. The reaction mixture turned dark yellow in color. The resulting solution was allowed to stir at rt for 3 h. When the reaction was complete by LC/MS, it was extracted with 100 mL water, washed the organic layer with 50 mL saturated NaCl and dried over MgSO4. After evaporation of solvent, the crude mixture was purified by ISCO normal phase separation to provide (2.161 g, 6.062 mmol, 92% yield) of 4-cyclohexyl-(2S)-[(1H-indole-2-carbonyl)-amino]-butyric acid ethyl ester as a clear liquid. HPLC-MS calcd. for C21H28N2O3 (M+H+) 357.5, found 357.5.

reactant | 4-Cyclohexyl-(2S)-[(1H-indole-2-carbonyl)-amino]-butyric acid | C1(CCCCC1)CC[C@@H](C(=O)O)NC(=O)C=1NC2=CC=CC=C2C1 | C19H24N2O3
reactant | (+)-Ethyl-(S)-2-amino-4-cyclohexylbutyrate hydrochloride | 6.577 mmol, 1.643 g, 1.0 equiv. | Cl.C(C)OC([C@H](CCC1CCCCC1)N)=O
reactant | 2-indolecarboxylic acid | 7.235 mmol, 1.166 g, 1.1 equiv. | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | HATU | 7.232 mmol, 2.750 g, 1.1 equiv. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 33.29 mmol, 5.8 mL, 4.6 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 4-cyclohexyl-(2S)-[(1H-indole-2-carbonyl)-amino]-butyric acid ethyl ester | 6.062 mmol, 2.161 g, 92% yield | C(C)OC([C@H](CCC1CCCCC1)NC(=O)C=1NC2=CC=CC=C2C1)=O | C21H28N2O3
